US04863958
A solution of 2-(p-methoxyphenethyl)-3-methyl-4-acetoxy-benzofuran (1 gm, 3 mmoles) in methanol (50 mL) and 1N sodium hydroxide (10 mL) was stirred at room temperature for a period of 10 minutes. The mixture was acidified with 20% citric acid and the volatiles were removed in vacuo. The aqueous residue was extracted with ether, washed with water, dried (Na2SO4), filtered, and concentrated to yield a residue that was chromatographed on silica gel. Elution with 15% ethylacetate in hexane yielded 2-(p-methoxyphenethyl)-3-methyl-4-hydroxybenzofuran, mp. 72°-75° C.

reactant | 2-(p-methoxyphenethyl)-3-methyl-4-acetoxy-benzofuran | 3 mmoles, 1 gm | COC1=CC=C(CCC=2OC3=C(C2C)C(=CC=C3)OC(C)=O)C=C1 | C20H20O4
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 50 mL | CO | CH4O
solvent | sodium hydroxide | 1N, 10 mL | [OH-].[Na+]
product | 2-(p-methoxyphenethyl)-3-methyl-4-hydroxybenzofuran | COC1=CC=C(CCC=2OC3=C(C2C)C(=CC=C3)O)C=C1 | C18H18O3
